US09278968B2
To a solution of 456 mg of ethyl [(diphenylmethylene)amino](pyrimidin-5-yl)acetate in 4.5 ml of DMF was added 69 mg of sodium hydride (55% mineral oil included) under ice-cooling, followed by stirring for 30 minutes. To the reaction mixture was added 0.1 ml of methyl iodide, followed by stirring at room temperature for 1.5 hours. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 224 mg of ethyl 2-[(diphenylmethylene)amino]-2-(pyrimidin-5-yl)propanoate.

reactant | ethyl [(diphenylmethylene)amino](pyrimidin-5-yl)acetate | 456 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)C=1C=NC=NC1 | C21H19N3O2
reactant | sodium hydride | 69 mg | [H-].[Na+]
reactant | methyl iodide | 0.1 ml | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
product | ethyl 2-[(diphenylmethylene)amino]-2-(pyrimidin-5-yl)propanoate | 224 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)(C)C=1C=NC=NC1 | C22H21N3O2
